US04122183
2-(N-[3-chlorobenzyl]-isobutyramido)-4-methyloxazole
2-iso Butyramido-4-methyloxazole (11.1 g., 0.066 mol) prepared in a manner similar to that described in Example 20, was dissolved in dry dimethylformamide. Solid potassium carbonate (10.47 g., 0.076 mol) and 3-chlorobenzyl bromide (15.6 g., 0.076 mol) were added and the stirred mixture was heated at 70° C for 2 hours, cooled and poured into cold water. The solution was extracted with ether and the extract was dried over magnesium sulphate and evaporated. The residue b.p. distilled to give the product, 12.3 g., b.p, 115°-120° C/0.08 mm.

reactant | 2-iso Butyramido-4-methyloxazole | 0.066 mol, 11.1 g | C(C(C)C)(=O)NC=1OC=C(N1)C | C8H12N2O2
reactant | potassium carbonate | 0.076 mol, 10.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorobenzyl bromide | 0.076 mol, 15.6 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(N-[3-chlorobenzyl]-isobutyramido)-4-methyloxazole | ClC=1C=C(CN(C(C(C)C)=O)C=2OC=C(N2)C)C=CC1 | C15H17ClN2O2
